US04242510
2-Mercaptophenol (3.5 g.) was allowed to react with ethyl 2-chloroacetyl-2-methoxyiminoacetate (6.2 g.) in a similar manner to that of Example A-(i) to give ethyl 2-(1,4-benzoxathiin-2-yl)-2-methoxyiminoacetate (syn isomer, 1.2 g.), pale yellow crystals, mp. 78° to 80° C.

reactant | 2-Mercaptophenol | 3.5 g | SC1=C(C=CC=C1)O | C6H6OS
reactant | ethyl 2-chloroacetyl-2-methoxyiminoacetate | 6.2 g | ClCC(=O)C(C(=O)OCC)=NOC | C7H10ClNO4
product | ethyl 2-(1,4-benzoxathiin-2-yl)-2-methoxyiminoacetate | 1.2 g | O1C(=CSC2=C1C=CC=C2)C(C(=O)OCC)=NOC | C13H13NO4S
